US05612377
3-(Methylthio)phenyl isocyanate (2.0 g, 12 mmol) was added dropwise to a solution of N-benzyloxy-N-methylamine (1.55 g, 11.3 mmol) in tetrahydrofuran (25 mL). The reaction mixture was stirred at ambient temperature for 2 hours then concentrated under vacuum. The residue was purified by flash chromatography (silica gel; ethyl acetate:hexanes) to provide 3.26 g of 1-benzyloxy-1-methyl-3-[3(methylthio)phenyl]urea as an oil.

reactant | 3-(Methylthio)phenyl isocyanate | 12 mmol, 2.0 g | CSC=1C=C(C=CC1)N=C=O | C8H7NOS
reactant | N-benzyloxy-N-methylamine | 11.3 mmol, 1.55 g | C(C1=CC=CC=C1)ONC | C8H11NO
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 1-benzyloxy-1-methyl-3-[3(methylthio)phenyl]urea | 3.26 g | C(C1=CC=CC=C1)ON(C(=O)NC1=CC(=CC=C1)SC)C | C16H18N2O2S
